US05681543
a) O-benzyl-N-trifluoroacetyltyrosine
112.5 g (0.41 mmol) of O-benzyltyrosine is suspended in 1 liter of dry methanol and mixed at room temperature with 58.9 ml (0.42 mol) of triethylamine. After addition of 67 ml (0.53 mol) of trifluoroacetic acid methyl ester, it is stirred for 130 hours at room temperature with exclusion of water. The unreacted initial material is separated and the leaving components are removed by shaking with ethyl acetate/aqueous hydrochloric acid. The ethyl acetate phase is decolored with activated carbon. After evaporation of the solvent, 120.7 g (80% of theory) of colorless crystals is obtained.

reactant | O-benzyltyrosine | 0.41 mmol, 112.5 g | C(C1=CC=CC=C1)OC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C16H17NO3
reactant | triethylamine | 0.42 mol, 58.9 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid methyl ester | 0.53 mol, 67 ml | COC(C(F)(F)F)=O | C3H3F3O2
reactant | water | O | H2O
solvent | methanol | 1 liter | CO | CH4O
product | O-benzyl-N-trifluoroacetyltyrosine | C(C1=CC=CC=C1)OC1=CC=C(C[C@H](NC(C(F)(F)F)=O)C(=O)O)C=C1 | C18H16F3NO4
